US07169921B2
[2-(7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)ethyl]carbamic acid tert-butyl ester
A solution of 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydro-chloride (see Preparation B(iv) above; 10 g, 34 mmol) in water (25 mL) was added slowly to a solution of sodium bicarbonate (10 g, 119 mmol) in water 10 mL). More water (5 mL) was added and the mixture was stirred at room temperature for 10 minutes. A solution of 2-(tert-butyloxycarbonylamino)ethyl tosylate (see Preparation A above; 11.92 g, 37 mmol) in toluene (40 mL) was added. This mixture was then heated at 65–70° C. for 7 hours before stirring at room temperature overnight. The reaction was reheated to 50° C. and the phases were separated. The aqueous layer was extracted with toluene (40 mL) at 50° C. The combined organic layers were washed with saturated sodium bicarbonate (25 mL). The solvents were evaporated under reduced pressure to yield a mixture of oil and solid (13 g, >100%). Ethyl acetate (50 mL) and citric acid (10%, 25 mL) were added to a portion of the oily solid (5 g, 138 mmol). The aqueous layer was separated and the organic layer washed again with citric acid (10%, 20 mL). The aqueous layers were combined and treated with solid sodium bicarbonate until neutral. The aqueous phase was extracted with ethyl acetate (2×50 mL), dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness under reduced pressure to give the title compound as a colourless semi-solid, which solidified fully when stored in the refrigerator (4.68 g, 93%).

reactant | 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydro-chloride | 34 mmol, 10 g | Cl.Cl.C(C1=CC=CC=C1)N1CC2CNCC(C1)O2
reactant | sodium bicarbonate | 119 mmol, 10 g | C([O-])(O)=O.[Na+]
reactant | 2-(tert-butyloxycarbonylamino)ethyl tosylate | S(=O)(=O)(OCCNC(=O)OC(C)(C)C)C1=CC=C(C)C=C1 | C14H21NO5S
reactant | citric acid | 25 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 25 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | [2-(7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN1CC2CN(CC(C1)O2)CC2=CC=CC=C2)=O | C20H31N3O3
